US06881746B2
Step 6: 3-[4-({(4-Chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid:
3-[4-({(4-Chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester (18.7 g, 31.7 mmol) was dissolved in ethanol (500 mL) and 1 N sodium hydroxide (63 mL, 63 mmol) was added. The resulting mixture was stirred at room temperature for 16 hours. The mixture was filtered, washed with ethanol and dried in vacuo at 40° C. for 16 hours to afford 8.0 g (42%) of the title compound as the sodium salt.

reactant | 3-[4-({(4-Chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester | 31.7 mmol, 18.7 g | COC(CCNC(C1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)Cl)=O)=O | C28H23ClF3N3O4S
reactant | sodium hydroxide | 63 mmol, 1 N, 63 mL | [OH-].[Na+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 3-[4-({(4-Chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid | 8.0 g, 42% | ClC1=CC=C(C=C1)N(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C27H21ClF3N3O4S
